US03959322
Dissolve dl-13-ethyl-17β-(2-hydroxyethoxy)-3-methoxygona-1,3,5(10)-triene (4.0 g) in 1-methoxy-2-propanol (60 ml), tetrahydrofuran (120 ml) and liquid ammonia (300 ml). Gradually add lithium (4.0 g) with stirring over a period of one hour. Add ammonium chloride (8.0 g) and water. Filter, wash and dry the resulting precipitate. Dissolve the product in tetrahydrofuran (300 ml) and liquid ammonia (300 ml) and treat with lithium (4.0 g). Stir for one hour. Add absolute ethanol, then water. Filter the resulting precipitate and wash it with water to obtain dl-13-ethyl-17β-(2-hydroxyethoxy)-3-methoxygona-2,5(10)-diene (3.4 g); essentially no ultraviolet absorption at the 280 mμ region, infrared absorption maxima at 2.91 μ, 5.89 μ, 6.0 μ.

reactant | 13-ethyl-17β-(2-hydroxyethoxy)-3-methoxygona-1,3,5(10)-triene | 4.0 g | C(C)[C@]12[C@H](CC[C@H]2[C@H]2[C@H](CC1)C=1C=CC(=CC1CC2)OC)OCCO | C22H32O3
reactant | lithium | 4.0 g | [Li] | Li
reactant | ammonium chloride | 8.0 g | [Cl-].[NH4+]
reactant | water | O | H2O
solvent | 1-methoxy-2-propanol | 60 ml | COCC(C)O | C4H10O2
solvent | tetrahydrofuran | 120 ml | O1CCCC1 | C4H8O
solvent | ammonia | 300 ml | N | H3N
product | 13-ethyl-17β-(2-hydroxyethoxy)-3-methoxygona-2,5(10)-diene | 3.4 g | C(C)[C@]12[C@H](CC[C@H]2[C@H]2[C@H](CC1)C=1CC=C(CC1CC2)OC)OCCO | C22H34O3
